US07453010B2
9.2: trans-4-{4-[((2S)-2-Hydroxy-3-{4-hydroxy-3-[(methylsulfonyl)amino]phenoxy}propyl)amino]cyclohexyl}-N-[2-(1H-indol-3-yl)ethyl]benzamide
A suspension of 0.246 g (0.3 mmol) of trans-4-{4-[benzyl((2S)-3-{4-(benzyloxy)-3-[(methylsulfonyl)amino]phenoxy}-2-hydroxypropyl)amino]cyclohexyl}-N-[2-(1H-indol-3-yl)ethyl]benzamide and of 0.332 g of palladium-on-charcoal (10% Pd, 50% in water) in a mixture of 5.4 ml of ethanol and 4 ml of tetrahydrofuran is placed under hydrogen atmosphere and is stirred for 3 h. The catalyst is subsequently filtered off and the solvents are evaporated under reduced pressure. The title compound is obtained in the form of a white solid (0.076 g, 40%) after purification on silica gel (eluent: dichloromethane/methanol/aqueous ammonia 99/1/0.1 to 85/15/1.5 gradient in 30 min).

reactant | trans-4-{4-[benzyl((2S)-3-{4-(benzyloxy)-3-[(methylsulfonyl)amino]phenoxy}-2-hydroxypropyl)amino]cyclohexyl}-N-[2-(1H-indol-3-yl)ethyl]benzamide | 0.3 mmol, 0.246 g | C(C1=CC=CC=C1)N([C@@H]1CC[C@H](CC1)C1=CC=C(C(=O)NCCC2=CNC3=CC=CC=C23)C=C1)C[C@@H](COC1=CC(=C(C=C1)OCC1=CC=CC=C1)NS(=O)(=O)C)O | C47H52N4O6S
solvent | ethanol | 5.4 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
catalyst | palladium-on-charcoal | 0.332 g | [Pd] | Pd
product | trans-4-{4-[((2S)-2-Hydroxy-3-{4-hydroxy-3-[(methylsulfonyl)amino]phenoxy}propyl)amino]cyclohexyl}-N-[2-(1H-indol-3-yl)ethyl]benzamide | O[C@@H](CN[C@@H]1CC[C@H](CC1)C1=CC=C(C(=O)NCCC2=CNC3=CC=CC=C23)C=C1)COC1=CC(=C(C=C1)O)NS(=O)(=O)C | C33H40N4O6S
